US08008327B2
A mixture of 4-azidomethyl-N-methyl-benzenesulfonamide (2.20 g, 10.0 mmol), cyclohexadiene (8.90 mL, 90.0 mmol) and palladium hydroxide (20% on carbon, 1.4 g, 2.0 mmol) in MeOH (20 mL) was warmed at 65° C. for 2 hours. The solution was cooled to room temperature and filtered through diatomaceous earth. The solvent was removed in vacuo to afford 4-aminomethyl-N-methyl-benzenesulfonamide

reactant | 4-azidomethyl-N-methyl-benzenesulfonamide | 10.0 mmol, 2.20 g | N(=[N+]=[N-])CC1=CC=C(C=C1)S(=O)(=O)NC | C8H10N4O2S
reactant | cyclohexadiene | 90.0 mmol, 8.90 mL | C1=CC=CCC1 | C6H8
solvent | MeOH | 20 mL | CO | CH4O
catalyst | palladium hydroxide | 2.0 mmol, 1.4 g | [OH-].[Pd+2].[OH-]
product | 4-aminomethyl-N-methyl-benzenesulfonamide | NCC1=CC=C(C=C1)S(=O)(=O)NC | C8H12N2O2S
